US08084448B2
C. 5-(4-Benzofuran-3-yl-2-benzyloxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A mixture of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (80 mg, 0.18 mmol), 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzofuran (44 mg, 0.18 mmol), Cs2CO3 (235 mg, 0.72 mmol) and Pd(PPh3)4 (8 mg) in DMF (5 mL) is stirred at 80° C. for 7 h. The mixture is cooled to RT and is diluted with EtOAc, washed with water and bride and dried over magnesium sulfate. The solvent is removed under reduced pressure to give the title compound.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.18 mmol, 80 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzofuran | 0.18 mmol, 44 mg | CC1(OB(OC1(C)C)C1=COC2=C1C=CC=C2)C | C14H17BO3
reactant | Cs2CO3 | 0.72 mmol, 235 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-Benzofuran-3-yl-2-benzyloxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | O1C=C(C=C2C1=CC=C2)C=2C(=C(C=CC2)N2CC(NS2(=O)=O)=O)OCC2=CC=CC=C2 | C23H18N2O5S
